US07235581B2
a) (S)-[1-(4-Hydroxy-phenyl)-2-oxo-pyrrolidin-3-yl]-carbamic Acid Tert-Butyl Ester
In an analogous manner to that described in Example 2b), the hydrogenolysis of the (S)-[1-(4-benzyloxy-phenyl)-2-oxo-pyrrolidin-3-yl]-carbamic acid tert-butyl ester [Example 8 b)] using palladium on carbon as the catalyst yields the title compound as a white solid in quantitative yield; MS: m/e=291 (M−H)+.

reactant | (S)-[1-(4-benzyloxy-phenyl)-2-oxo-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1C(N(CC1)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O)=O | C22H26N2O4
catalyst | palladium on carbon | [Pd] | Pd
product | (S)-[1-(4-Hydroxy-phenyl)-2-oxo-pyrrolidin-3-yl]-carbamic Acid Tert-Butyl Ester | quantitative yield | C(C)(C)(C)OC(N[C@@H]1C(N(CC1)C1=CC=C(C=C1)O)=O)=O | C15H20N2O4
